US05501812
Preparation of Dodecyl β-D-Glucofuranosiduron-6,3-Lactone
20 g of Glucurono-6,3-lactone (0.11 mole), 0.2 g p-toluenesulfonic acid (1.05×10-3 mole) and 164.0 g of dodecanol (0.88 mole) were placed in a three-necked flask equipped with a mechanical stirrer, thermometer and short path distillation head. The mixture was heated to 110° C. until D-glucurono-6,3-lactone dissolved. The reaction mixture was neutralized with 1 ml of 1N methanolic KOH at 25° C., filtered over silica and washed with methanol. A vacuum was applied to remove the methanol and dodecanol yielding a syrup. Hexane was added and dodecyl β-D-glucofuranosidurono-6,3-lactone crystallized selectively. The yield was 15.9 g (42%). The product was recrystallized from hexane/ether mixture. MP 88°-89° C. (99.9% pure).

reactant | Glucurono-6,3-lactone | 0.11 mole, 20 g | O=C[C@H](O)[C@@H]1[C@H](O)[C@H](O)C(=O)O1 | C6H8O6
reactant | p-toluenesulfonic acid | 1.05×10-3 mole, 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | dodecanol | 0.88 mole, 164.0 g | C(CCCCCCCCCCC)O | C12H26O
product | Dodecyl β-D-Glucofuranosiduron-6,3-Lactone | O([C@H]1[C@H](O)[C@@H]2[C@H](O1)[C@H](O)C(=O)O2)CCCCCCCCCCCC | C18H32O6
